US08865739B2
To a solution of ethyl 6-chloro-2-(chloromethyl)-4-phenylquinoline-3-carboxylate (539 mg, 1.5 mmol) in dry N,N-dimethylformamide (5 ml) at room temperature was added potassium phthalimide (278 mg, 1.5 mmol). The mixture was heated at 45° C. for 48 hours, then diluted with ethyl acetate and poured into a separatory funnel. The organic phase was washed with saturated sodium bicarbonate, water (2×), then brine. The organic phase was separated, and the solvent removed under reduced pressure, leaving a white solid, which was washed with a cold solution of 10% diethylether/hexanes, dried under reduced pressure, to provide ethyl 6-chloro-2-((1,3-dioxoisoindolin-2-yl)methyl)-4-phenylquinoline-3-carboxylate (580 mg, 82%) as a white powder. TLC Rf=0.41 using 1:1 ethyl acetate:hexanes eluent on a glass backed silica gel plate. 1H NMR (CDCl3, 400 MHz) δ 7.98 (m, 2H); 7.78 (m, 3H); 7.58 (m, 5H); 7.38 (m, 2H); 5.30 (s, 2H); 4.04 (q, 2H, J=7.0 Hz); 0.89 (t, 3H, J=7.0 Hz). LC MS (CI) shows M+H 471.

reactant | ethyl 6-chloro-2-(chloromethyl)-4-phenylquinoline-3-carboxylate | 1.5 mmol, 539 mg | ClC=1C=C2C(=C(C(=NC2=CC1)CCl)C(=O)OCC)C1=CC=CC=C1 | C19H15Cl2NO2
reactant | potassium phthalimide | 1.5 mmol, 278 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6-chloro-2-((1,3-dioxoisoindolin-2-yl)methyl)-4-phenylquinoline-3-carboxylate | 580 mg, 82% | ClC=1C=C2C(=C(C(=NC2=CC1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC)C1=CC=CC=C1 | C27H19ClN2O4
